US04889863
Preparation of 2-n-butylthio-4-amino-5-cyanothiazole, starting substance for the preparation of compounds (6) and (7) according to examples I and II
A concentrated solution of 128 g of KOH in approximately 80 ml of water is slowly added dropwise to a solution of 42.0 g of cyanamide in approximately 500 ml of dimethyl formamide to which 90 ml (114 g) of carbon disulphide have been added. During the addition the mixture is stirred and kept at a temperature of 0°-10° C. by cooling. After 45 minutes, 107 ml (137 g) of n-butylbromide are slowly added dropwise while cooling and stirring and, after 30 minutes, 63.5 ml (75.5 g) of chloroacetonitrile are then added. The cooling bath is removed and, after stirring for another 30 minutes, a concentrated solution of 10 g of KOH in water is added, the temperature of the reaction mixture rising to approximately 60° C. After stirring for another hour at 60° C. the reaction mixture is poured in 2.5 l of ice water, after which the formed precipitate is sucked off, washed successively with water, isopropyl alcohol and petroleum ether, and dried. The desired product is obtained in a yield of 158.9 g and melts at 115°-117° C.

reactant | KOH | 128 g | [OH-].[K+]
reactant | cyanamide | 42.0 g | N#CN | CH2N2
reactant | n-butylbromide | 107 ml, 137 g | C(CCC)Br | C4H9Br
reactant | chloroacetonitrile | 63.5 ml, 75.5 g | ClCC#N | C2H2ClN
reactant | carbon disulphide | 90 ml, 114 g | C(=S)=S | CS2
solvent | water | approximately 80 ml | O | H2O
solvent | dimethyl formamide | approximately 500 ml | CN(C=O)C | C3H7NO
product | 2-n-butylthio-4-amino-5-cyanothiazole | C(CCC)SC=1SC(=C(N1)N)C#N | C8H11N3S2
